US04666902
(a) 4-(3,4,5-Trimethoxyphenyl)-carbonyl-γ-butyrolactone hydrazone hydrate
11.2 g (0.04 mol) of 4-(3,4,5-trimethoxyphenyl)-carbonyl-γ-butyrolactone and 2 ml (0.04 mol) of hydrazine hydrate are stirred in 60 ml of ethanol at room temperature for 1 hour and the precipitate is filtered off with suction.

reactant | 4-(3,4,5-trimethoxyphenyl)-carbonyl-γ-butyrolactone | 0.04 mol, 11.2 g | COC=1C=C(C=C(C1OC)OC)C1CC(C(=O)O1)=C=O | C14H14O6
reactant | hydrazine hydrate | 0.04 mol, 2 ml | O.NN
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(3,4,5-Trimethoxyphenyl)-carbonyl-γ-butyrolactone hydrazone hydrate | O.COC=1C=C(C=C(C1OC)OC)C1CC(C(O1)=NN)=C=O | InChI=1S/C14H16N2O5.H2O/c1-18-11-4-8(5-12(19-2)13(11)20-3)10-6-9(7-17)14(16-15)21-10;/h4-5,10H,6,15H2,1-3H3;1H2
